US06930114B2
Following the procedure described in Example 1, ethyl (6,7-dimethoxy-3,4-dihydro-1(2H)-isoquinolinylidene)-ethanoate (Example III.1), 3-nitro-benzaldehyde, and nitroethane were reacted to give ethyl 8,9-dimethoxy-3-methyl-2-(3-nitrophenyl)-5,6-dihydro-pyrrolo[2,1-a]-isoquinoline-1-carboxylate.

reactant | ethyl (6,7-dimethoxy-3,4-dihydro-1(2H)-isoquinolinylidene)-ethanoate | COC=1C=C2CCNC(C2=CC1OC)=CC(=O)OCC | C15H19NO4
reactant | 3-nitro-benzaldehyde | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | nitroethane | [N+](=O)([O-])CC | C2H5NO2
product | ethyl 8,9-dimethoxy-3-methyl-2-(3-nitrophenyl)-5,6-dihydro-pyrrolo[2,1-a]-isoquinoline-1-carboxylate | COC=1C=C2CCN3C(C2=CC1OC)=C(C(=C3C)C3=CC(=CC=C3)[N+](=O)[O-])C(=O)OCC | C24H24N2O6
